* test

* DGS
.include Si7997DP.mod
* DGST
.include FDC6327C.mod


V1 vcc 0 dc 5V
Vtemp temp 0 dc 27V


R21 ctrl 0 4.7k
X3a n1 ctrl 0 temp FDC6327CN
R20 vcc n1 4.7k
X3b n2 n1 vcc temp FDC6327CP
R19 n2 0 10k
X2a vcc n2 n3 Si7997DP
X2b vout n2 n3 Si7997DP
Rload vout 0 100
C30 vout n2 0.1u

V0 ctrl 0 dc 0V pulse(0 3.3V 50m 5m 5m 50m 100m)
